US03992459
Step D: Prepration of 4-(2,4-difluorophenyl)phenol
A 30 liter resin pot is fitted with stirrer, thermometer and reflux condenser, and charged with 2.62 kg of 50% aqueous sodium hydroxide and 11.34 liters of water. 4-(2',4'-Difluorophenyl)phenylacetate (1.876 kg., 7.55 m) is added and the batch is heated to reflux over 2.5 hours. The batch is refluxed for 2 hours (in solution at 75°), then cooled to 100° and added to a solution of 3.27 liters of concentrated hydrochloric acid in 9.8 liters of water in a 50 liter resin pot over a 30 minute period.

reactant | sodium hydroxide | 2.62 kg | [OH-].[Na+]
reactant | 4-(2',4'-Difluorophenyl)phenylacetate | 1.876 kg | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)CC(=O)[O-]
reactant | hydrochloric acid | 3.27 liters | Cl | ClH
solvent | water | 9.8 liters | O | H2O
solvent | water | 11.34 liters | O | H2O
product | 4-(2,4-difluorophenyl)phenol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)O | C12H8F2O
